* C:\Users\antip\OneDrive\Desktop\Школа\Электротехника\Lab 4\Draft1.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 SINE(0 63.6396 50 0 0 0 0)
V2 N003 0 SINE(0 63.6396 50 0 0 -120 0)
V3 N004 0 SINE(0 63.6396 50 0 0 120 0)
R1 N002 N001 168
R3 N005 N004 84
L1 N003 N002 0.472
L3 N003 N005 0.236
.tran 0 0.1
.backanno
.end
